US08895313B2
2-{4-[2-(4-Aminophenyl)-vinyl]-phenyl}-6-methylbenzothiazole
Prepared as described in the Nitro Reduction section using 2-{4-[2-(4-nitrophenyl)-vinyl]-phenyl}-6-methylbenzothiazole (0.15 g, 0.403 mmol) and tin (II) chloride dihydrate (0.73 g, 3.22 mmol) in EtOH (5 ml) to give the title compound (0.113 g, 82%) as a pale yellow solid after work-up and flash chromatography (20:1 DCM/EtOAc).

reactant | 2-{4-[2-(4-nitrophenyl)-vinyl]-phenyl}-6-methylbenzothiazole | 0.403 mmol, 0.15 g | [N+](=O)([O-])C1=CC=C(C=C1)C=CC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C | C22H16N2O2S
reactant | tin (II) chloride dihydrate | 3.22 mmol, 0.73 g | O.O.[Sn](Cl)Cl
reactant | DCM EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | EtOH | 5 ml | CCO | C2H6O
product | 2-{4-[2-(4-Aminophenyl)-vinyl]-phenyl}-6-methylbenzothiazole | 0.113 g, 82% | NC1=CC=C(C=C1)C=CC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C | C22H18N2S
